US06953570B2
4-(N,N-diphenylamino)benzyl acetate
4-(N,N-Diphenylamino)benzyl alcohol (5.94 g, 0.0216 mol), pyridine (16 mL) and acetic anhydride (11.4 mL) were mixed in a three-neck flask equipped with a condenser and addition funnel. The resulting mixture was stirred overnight at room temperature. Deionized water (50 mL) was then added and the resulting mixture stirred for 2 hours. The product was obtained by filtration, and recrystallized from hexane to yield the desired product (6.52 g, 95%). m.p. 105-6° C.; 1H NMR δ: 2.10 (s, 3H, CH3), 5.04 (s, 2H, CH2), 7.0-7.4 (m, 14H, phenyl). Analysis: Calculated for C19H17NO2: C, 79.46%; H, 6.03%; N, 4.41%. Found: C, 79.37 %; H, 5.72 %; N, 4.41%.

reactant | 4-(N,N-Diphenylamino)benzyl alcohol | 0.0216 mol, 5.94 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C19H17NO
reactant | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 11.4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 mL | O | H2O
product | 4-(N,N-diphenylamino)benzyl acetate | 6.52 g, 95% | C(C)(=O)OCC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19NO2
